US09102632B2
59.9 g (412.6 mM) of ethyl(ethylamino)(oxo)acetate and 45 ml (412.6 mM) of (2,2-dimethoxyethyl)amine in 480 ml of 2-propanol were stirred at room temperature for 16 h. A white precipitate was filtered, washed with 2-propanol and dried under vacuum, to give 67.8 g of N-(2,2-dimethoxyethyl)-N′-ethylethanediamide. Yield: 80.5%.

reactant | ethyl(ethylamino)(oxo)acetate | 412.6 mM, 59.9 g | C(C)OC(C(=O)NCC)=O | C6H11NO3
reactant | (2,2-dimethoxyethyl)amine | 412.6 mM, 45 ml | COC(CN)OC | C4H11NO2
solvent | 2-propanol | 480 ml | CC(C)O | C3H8O
product | N-(2,2-dimethoxyethyl)-N′-ethylethanediamide | 67.8 g, Yield: 80.5% | COC(CNC(C(=O)NCC)=O)OC | C8H16N2O4
